US08633173B2
N(8)-(4-Methanesulfonyl-phenyl)-N(2)-(4-methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine
N(8)-(4-Methanesulfonyl-phenyl)-N(2)-(4-methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine was prepared from (8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-(4-methoxy-phenyl)-amine (50.0 mg, 0.157 mmol) and 4-methanesulfonyl-phenylamine (33.0 mg, 0.193 mmol) in a manner analogous to Example 30. The title compound was isolated as a brown foam (0.013 g, 20%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.08 (d, J=6.1 Hz, 1H), 7.89 (d, J=7.5 Hz, 2H), 7.49 (d, J=7.9 Hz, 2H), 7.35-7.30 (m, 3H), 6.95-6.90 (m, 3H), 6.85-6.80 (m, 1H), 6.58 (s, 1H), 3.82 (s, 3H), 3.07 (s, 3H). MS=410 (MH)+.

reactant | (8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-(4-methoxy-phenyl)-amine | 0.157 mmol, 50.0 mg | BrC=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)OC | C13H11BrN4O
reactant | 4-methanesulfonyl-phenylamine | 0.193 mmol, 33.0 mg | CS(=O)(=O)C1=CC=C(C=C1)N | C7H9NO2S
product | N(8)-(4-Methanesulfonyl-phenyl)-N(2)-(4-methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine | CS(=O)(=O)C1=CC=C(C=C1)NC=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)OC | C20H19N5O3S
